US04031226
A mixture of 16 parts of N-(2-bromoethyl)-4-fluoro-2-nitrobenzamide, 12.6 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one and 216 parts of N,N-dimethylformamide is stirred and refluxed for 3 hours. The N,N-dimethylformamide is evaporated and the residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the hydrochloride salt in 2-propanone and 2-propanol. The salt is filtered off and crystallized from methanol, yielding 1.5 parts of N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide hydrochloride; mp. 276.8° C.

reactant | N-(2-bromoethyl)-4-fluoro-2-nitrobenzamide | BrCCNC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C9H8BrFN2O3
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide hydrochloride | Cl.ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCNC(C2=C(C=C(C=C2)F)[N+](=O)[O-])=O)C=C1 | InChI=1S/C21H21ClFN5O4.ClH/c22-13-1-4-18-17(11-13)25-21(30)27(18)15-5-8-26(9-6-15)10-7-24-20(29)16-3-2-14(23)12-19(16)28(31)32;/h1-4,11-12,15H,5-10H2,(H,24,29)(H,25,30);1H
